US04810719
Methyl 4-(1-phenyl-1H-pyrazol-3-yl)aminobenzoate
4-(1-Phenyl-1H-pyrazol-3-yl)aminobenzoic acid (0.110 g) in dry dichloromethane was treated with an excess of ethereal diazomethane. After 5 minutes the solvents were evaporated to yield the title compound, mp 160°-161°.

reactant | 4-(1-Phenyl-1H-pyrazol-3-yl)aminobenzoic acid | 0.110 g | C1(=CC=CC=C1)N1N=C(C=C1)NC1=CC=C(C(=O)O)C=C1 | C16H13N3O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 4-(1-phenyl-1H-pyrazol-3-yl)aminobenzoate | C1(=CC=CC=C1)N1N=C(C=C1)NC1=CC=C(C(=O)OC)C=C1 | C17H15N3O2
